US03959476
4-Amino-3-(2-methylbenzylidenehydrazino)-1,2,4-triazole hydrochloride (Compound I).
To a solution of 14.0 g (0.075 mole) of 4-amino-3-hydrazino-1, 2,4-triazole dihydrochloride in 200 ml of 75 percent ethanol was added 9.0 g (0.075 mole) of o-tolualdehyde. The mixture was stirred and heated at reflux for 1.5 hour. The solution was cooled and the precipitate formed collected by filtration and washed with ether. Yield: 18.4 g, m.p. 230°-232° (D). After recrystallization from aqueous ethanolisopropyl ether the product melts at 233°-234° (D).

reactant | 4-amino-3-hydrazino-1, 2,4-triazole dihydrochloride | 0.075 mole, 14.0 g | Cl.Cl.NN1C(=NN=C1)NN
reactant | o-tolualdehyde | 0.075 mole, 9.0 g | C=1(C(=CC=CC1)C=O)C | C8H8O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-Amino-3-(2-methylbenzylidenehydrazino)-1,2,4-triazole hydrochloride | Cl.NN1C(=NN=C1)NN=CC1=C(C=CC=C1)C | InChI=1S/C10H12N6.ClH/c1-8-4-2-3-5-9(8)6-12-14-10-15-13-7-16(10)11;/h2-7H,11H2,1H3,(H,14,15);1H
